US05405851
1,2,5,6-Tetrahydro-3-methyl-1-oxobenzo[f]quinazolin-9-sulfonyl chloride (0.53 g, 1.7 mmole) and p-nitroaniline (0.25 g, 1.8 mmole) (Eastman) were dissolved in pyridine (5 ml) and the reaction mixture stirred at room temperature for 48 hours. The pyridine was removed in vacuo, and the residue washed with water. The dried solid was subjected to chromatography on silica (80 g), eluting with methanolmethylene chloride(1:19). Fractions containing product were evaporated to dryness, the residue sonicated with ether (75 ml) and filtered. The beige solid was washed with ether and dried under high vacuum to yield 1,2,5,6-tetrahydro-3-methyl-4'-nitro-1-oxobenzo[f]quinazoline-9-sulfonanilide. (0.18 g, 26%). Mp>240° C. 1H NMR (DMSO-d6, 300 MHz) δ: 2.32 (s, 3H, CH3); 2.72 (m, 2H, Ar CH2); 2.91 (m, 2H, ArCH2); 7.33 (d, J=9 Hz, 2H, Ar); 7.43 (d, J=8 Hz, 1H, Ar); 7.69(dd, J=2,8 Hz, Ar); 8.13 (d, J=9 Hz, 2H, Ar); 9.23 (d, J=2 Hz, 1H, Ar); 11.13 (s, 1H, NH); 12.73 (s, 1H, NH). Anal Calculated for C19H16N4O5S.13/25 H2O: C,54.10; H,4.07; N,13.28; S,7.60. Found: C,54.07; H,3.98; N,13.19; S,7.66.

reactant | 1,2,5,6-Tetrahydro-3-methyl-1-oxobenzo[f]quinazolin-9-sulfonyl chloride | 1.7 mmole, 0.53 g | CC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)Cl | C13H11ClN2O3S
reactant | p-nitroaniline | 1.8 mmole, 0.25 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1,2,5,6-tetrahydro-3-methyl-4'-nitro-1-oxobenzo[f]quinazoline-9-sulfonanilide | CC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)NC3=CC=C(C=C3)[N+](=O)[O-] | C19H16N4O5S
